US05705499
2-chloro-5,11-dihydro-11-ethyl-8-(5-indolyloxy)methyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one
Using a procedure analogous to that described in Example 98, the title compound, m.p. 176°-178° C., was prepared from 2-chloro-8-chloromethyl-5,11-dihydro-11-ethyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one and 5-hydroxyindole. The yield was 22% of theory.

reactant | 2-chloro-8-chloromethyl-5,11-dihydro-11-ethyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | ClC=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC(=C3)CCl)=O)C | C15H14Cl2N4O
reactant | 5-hydroxyindole | OC=1C=C2C=CNC2=CC1 | C8H7NO
product | 2-chloro-5,11-dihydro-11-ethyl-8-(5-indolyloxy)methyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | yield was 22% | ClC=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC(=C3)COC=3C=C1C=CNC1=CC3)=O)C | C23H20ClN5O2
